* source ONCALISMA
R_R1         N00243 N000030  1k  
V_V1         N000030 0 5Vdc
V_V2         N02904 0 5Vdc
M_M1         N00243 N00243 0 0 nnMOS           
M_M2         N02904 N00243 0 0 nnMOS           
