* source BIAS
J_J1         N00660 N00976 N00588 J2N4860 
R_Rd         N00660 N01068  1k  
R_R1         N01145 N01068  30k  
R_Rc         N000731 N01068  1k  
R_Re         0 N04074  2.2k  
Q_Q1         N000731 N01145 N04074 Q2N3904
R_R2         0 N01145  47k  
R_Rs         0 N00588  330  
V_V1         N01068 0 12Vdc
R_Rg         0 N00976  1M  
