* source DC ANALIZ
R_R1         N00224 N00274  8.2k  
R_Rc         N00195 N00274  6.3k  
R_R2         0 N00224  3.9k  
R_RE         0 N03652  3.3k  
Q_Q1         N00195 N00224 N03652 Q2N3904
V_Vcc         N00274 0 12Vdc
