* source PART D
R_R1         N00224 N00274  8.2k  
R_Rc         N00195 N00274  6.3k  
C_C2         N00195 N01531  10uF  
R_R2         0 N00224  3.9k  
R_RE         0 N001030  3.3k  
C_C1         N01728 N00224  10uF  
R_RL         0 N01531  3.9k  
V_V2         N001471 0  
+SIN 0 10mV 1kHz 0 0 0
R_Rs         N001471 N01728  3k  
Q_Q1         N00195 N00224 N001030 Q2N3904
V_Vcc         N00274 0 12Vdc
