* source O.C
M_M1         N00915 N00184 N04425 N04425 nnMOS           
C_C6         0 N04425  10uF  
R_R1         N00184 N00425  68k  
C_Cd         N00915 0  1uF  
R_R2         0 N00184  20k  
R_Rs         0 N04425  20k  
C_Cg         N02949 N00184  1uF  
R_Rd         N00915 N00425  178k  
V_V4         N02949 0  
+SIN 0 50mV 1kHz 0 0 0
V_V1         N00425 0 15Vdc
