* source DENEY3
M_M1         N00052 N00024 N00063 N00063 nnMOS           
C_Cg         N00297 N00024  1u  
R_R1         N00024 N00040  120k  
R_R2         0 N00024  100k  
R_Rd         N00052 N00040  68k  
R_Rs         0 N00063  68k  
R_R3         N00300 N00297  100  
V_V1         N00040 0 15Vdc
V_V2         N00300 0  
+SIN 0 50m 1k 0 0 0
