* source DENEY4
R_RL         N00244 0  100k  
C_C1         N00033 N00037  10u  
C_C3         N00104 N00111  22u  
C_C2         0 N00047  100u  
C_C5         N00244 N00154  10u  
C_C4         0 N00157  100u  
R_Rg         0 N00037  1Meg  
R_Rd         N00104 N00122  1k  
R_R1         N00111 N00122  30k  
R_R2         0 N00111  47k  
R_Rs         0 N00047  330  
R_Re         0 N00157  2.2k  
Q_Q1         N00154 N00111 N00157 Q2N3904
V_VCC         N00122 0 12v
R_Rc         N00154 N00122  1k  
J_J1         N00104 N00037 N00047 J2N4860 
V_Vsin         N00033 0  
+SIN 0 0.1m 1k 0 0 0
