* source DENEY5
M_M1         N00177 N00177 0 0 nnMOS           
M_M5         N00372 N00177 0 0 nnMOS           
R_R         N00319 N00177  1k  
V_VCC1         N00319 0 5Vdc
V_VCC2         N00372 0 5Vdc
