* source DENEY8
R_R1         N00013 N00029  8.2k  
R_R2         0 N00013  3.9k  
R_RC         N00023 N00029  6.3k  
R_RE         0 N00026  3.3k  
Q_Q1         N00023 N00013 N00026 Q2N3904
C_C1         N00081 N00013  10u  
C_C2         N00023 N00111  10u  
R_RS         N00960 N00081  3k  
R_RL         0 N00111  3.9k  
V_VCC         N00029 0 12Vdc
V_V4         N00960 0  
+SIN 0 10m 1k 0 0 0
