* source DENEY1
R_R1         N00022 N00029  220k  
R_R3         N00039 N00029  560  
Q_Q1         N00039 N00022 N01111 BC238BP/ZTX 
R_R2         N01108 N01111  33  
R_R4         0 N01108  270  
C_C3         N00429 N00022  10uf  
R_R7         0 N00022  68k  
C_C4         N00039 N00395  10uf  
R_R6         0 N00395  3.3k  
C_C1         0 N01108  100u  
V_V3         N00429 0  
+SIN 0 50m 5k 0 0 0
V_V1         N00029 0 15Vdc
