* source DENEY6
M_Q1         N00160 N00154 0 0 nnMOS           
M_Q3         N00009 N00009 N00032 N00032 ppmos           
M_Q2         N00160 N00009 N00032 N00032 ppmos           
V_VCC         N00032 0 15Vdc
R_RG         N00154 N00160  1meg  
V_Vin         N01669 0  
+SIN 0 25m 5k 0 0 0
M_Q4         N00009 N00009 0 0 nnMOS           
C_C1         N01669 N00154  10u  
C_C2         N00160 N01644  10u  
R_RL         0 N01644  100k  
