* source DENEY7
Q_Q1         N00025 0 N00028 Q2N3904
Q_QA         N00094 N00094 N00120 Q2N3904
Q_QB         N00081 N00094 N00124 Q2N3904
R_Rc1         N00025 N00287  10k  
R_Rc2         N00064 N00287  10k  
R_RE1         N00081 N00028  250  
R_RB         N00124 N00130  2.2k  
R_RA         N00130 N00120  2.2k  
R_RE2         N00081 N00071  250  
V_VCC         N00287 0 15Vdc
R_RREF         0 N00094  4.7k  
Q_Q2         N00064 0 N00071 Q2N3904
V_VEE         N00130 0 15Vdc
